* ICsprout 55LLULP varactor equations at 125 C

.option temp=125

v12 n12 0 dc 1.0 ac 1
a12 n12 0 var12
.model var12 icsvar (variant=12 l=5u w=3u nf=8 mr=3 mismod=1 dcgg=0.03 dtox=-4.8e-11 sigma_mis=0.75)

v33 n33 0 dc 2.5 ac 1
a33 n33 0 var33
.model var33 icsvar (variant=33 l=5u w=3u nf=8 mr=3 mismod=1 dcgg=0.03 dtox=0 sigma_mis=0.75)

.control
op
let err_i12 = abs((i(v12) + 9.6329322001892000e-8) / 9.6329322001892000e-8)
if err_i12 > 1e-10
  echo "ERROR: high-temperature gate-current equation"
  quit 1
end

ac lin 1 1meg 1meg
let err_c12 = abs((imag(i(v12)) + 2.4760635449329085e-5) / 2.4760635449329085e-5)
let err_c33 = abs((imag(i(v33)) + 9.5362230030596660e-6) / 9.5362230030596660e-6)
if err_c12 > 1e-10
  echo "ERROR: high-temperature 1.2 V capacitance equation"
  quit 1
end
if err_c33 > 1e-10
  echo "ERROR: high-temperature 3.3 V capacitance equation"
  quit 1
end

echo "INFO: success"
quit 0
.endc

.end
